US09447090B2
To a solution of 5.2 g of 8-(benzyloxy)-N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide in 70 ml of ethanol was added 1.0 g of 10% palladium-carbon (wet), followed by stirring for 3 hours under a hydrogen atmosphere. The reaction mixture was filtered over Celite, the solvent was then evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. To the obtained purified product were added hexane and diisopropyl ether, followed by stirring, and the resulting solid was collected by filtration and dried to obtain 3.5 g of N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-(benzyloxy)-N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 5.2 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CO[Si](C)(C)C(C)(C)C)C2=CC=CC=C2 | C30H37N3O3Si
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | N-[(1R)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-phenylethyl]-8-hydroxy-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 3.5 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C1=CC=CC=C1)NC(=O)C1=C(N=C2N1C=CC=C2O)C | C23H31N3O3Si
